US04243683
A solution of 3-(3-trifluoromethylphenyl)propionic acid (13.6 g) in anhydrous ethanol (25 ml) containing concentrated sulphuric acid (1.5 ml) was heated at reflux for 24 hours and was then poured into water (100 ml). The mixture was extracted with diethyl ether and the ethereal extract was washed with water, with aqueous sodium carbonate solution (2 N), and with water, then dried over magnesium sulphate and evaporated. The resulting residue was distilled, to give ethyl 3-(3-trifluoromethylphenyl)propionate (11.5 g) in the form of a colourless oil, b.p. 133°-135° C./17 mm Hg. [elemental analysis: C, 58.6; H, 5.2%. C12H13F3O2 requires C, 58.5; H, 5.3%. νmax 1125, 1170, 1330 and 1740 cm-1 ].

reactant | 3-(3-trifluoromethylphenyl)propionic acid | 13.6 g | FC(C=1C=C(C=CC1)CCC(=O)O)(F)F | C10H9F3O2
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 ml | O | H2O
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl 3-(3-trifluoromethylphenyl)propionate | 11.5 g | FC(C=1C=C(C=CC1)CCC(=O)OCC)(F)F | C12H13F3O2
